US09085583B2
To a solution of 1-(1,4-dioxan-2-yl)ethanone (12 g, 92.2 mmol) in 1,2-dichloroethane (100 mL) was added (4-methoxyphenyl)methanamine (25 g, 184.4 mmol) at room temperature. The mixture was allowed to stir for 3 hours, and then sodium triacetoxyborohydride (39 g, 184.4 mmol) was added. The resulting mixture was allowed to stir for 48 hours at room temperature. The reaction mixture was quenched by adding water, extracted with dichloromethane (100 mL×3). The combined organic phase was dried by anhydrous sodium sulphate, and then filtered. The filtrate was concentrated and purified by column chromatograph on silica gel (elute: dichloromethane/methanol 100:1→50:1→20:1) to give 1-(1,4-dioxan-2-yl)-N-(4-methoxybenzyl)ethanamine (16.4 g, 71%) as a yellow solid. LCMS (M+H+) m/z: calcd. 251.15. found 251.9. To a solution of 1-(1,4-dioxan-2-yl)-N-(4-methoxybenzyl)ethanamine (5 g, 19.9 mmol) in anhydrous methanol (100 mL) was added palladium 10% on carbon (240 mg, 2 mmol), then purged with hydrogen (30 psi), the mixture was allowed to stir overnight at room temperature. The reaction mixture was filtered, and the filtrate was concentrated to afford the title compound (2.5 g, 96%) as a brown solid.

reactant | 1-(1,4-dioxan-2-yl)ethanone | 92.2 mmol, 12 g | O1C(COCC1)C(C)=O | C6H10O3
reactant | (4-methoxyphenyl)methanamine | 184.4 mmol, 25 g | COC1=CC=C(C=C1)CN | C8H11NO
reactant | sodium triacetoxyborohydride | 184.4 mmol, 39 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
product | 1-(1,4-dioxan-2-yl)-N-(4-methoxybenzyl)ethanamine | 16.4 g, 71% | O1C(COCC1)C(C)NCC1=CC=C(C=C1)OC | C14H21NO3
